US06960586B2
Production of 6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-N,N-diisopropyl-2-naphthamide
To a solution of toluene (1000 mL) containing a solution (1.6 M : 98.3 mL) of butyllithium in hexane was dropwise added a solution (250 mL) of 6-bromo-N,N-diisopropyl-2-naphthamide (50.0 g) in THF at −70° C. The mixture was stirred at the same temperature for 30 min., and a solution (200 mL) of 2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanone (47.5 g) in THF was added dropwise. The mixture was stirred for 20 min. Water was added and the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated and the residue was recrystallized from isopropyl ether to give the title compound (71.1 g) as a colorless powder.

reactant | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
reactant | butyllithium | 1.6 M, 98.3 mL | C(CCC)[Li]
reactant | 6-bromo-N,N-diisopropyl-2-naphthamide | 250 mL, 50.0 g | BrC=1C=C2C=CC(=CC2=CC1)C(=O)N(C(C)C)C(C)C | C17H20BrNO
reactant | 2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanone | 200 mL, 47.5 g | CC(C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C26H24N2O
solvent | hexane | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-N,N-diisopropyl-2-naphthamide | 71.1 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C(=O)N(C(C)C)C(C)C | C43H45N3O2
